US05274116
2-Amino-N-1H-pyrrol-1-ylacetamide Hydrochloride
To 1,1-dimethylethyl-[2-oxo-2-(1H-pyrrol-1-ylamino)ethyl]carbamate (5.67 g) was added 35 ml of a 3.7M etheral hydrogen chloride solution. The reaction mixture was stirred at room temperature over a period of 5 hours. The colored powder obtained by suction filtration was purified by addition of a solution of the product in methanol/diethyl ether, collecting the precipitate and repeating this procedure several times until the greater part of the substance was dissolved in the mother liquors. The last precipitate was discarded and the combined mother liquors were again recrystallized from methanol/diethyl ether. This afforded 1.90 g (46%) of the product as a powder, m.p. 212°-215° C. (dec.).

reactant | 1,1-dimethylethyl-[2-oxo-2-(1H-pyrrol-1-ylamino)ethyl]carbamate | 5.67 g | CC(C)(C)N(C([O-])=O)CC(NN1C=CC=C1)=O
reactant | hydrogen chloride | 3.7M | Cl | ClH
product | 2-Amino-N-1H-pyrrol-1-ylacetamide Hydrochloride | Cl.NCC(=O)NN1C=CC=C1 | InChI=1S/C6H9N3O.ClH/c7-5-6(10)8-9-3-1-2-4-9;/h1-4H,5,7H2,(H,8,10);1H
